US07592373B2
1.2.a. 3-(4-hydroxymethylphenyl)propynoic acid-(4-prop-1-ynylphenyl)amide
40 mL of THF are degassed, combined with 2.62 g (8.03 mmol) of cesium carbonate and 4-iodobenzyl alcohol and again degassed. To this reaction mixture is added successively 138 mg (0.12 mmol) of tetrakistriphenylphosphine palladium, 53 mg (0.28 mmol) of copper (I) iodide, and 0.7 g (3.2 mmol) of propynoic acid-(4-prop-1-ynylphenyl)amide. The mixture is stirred for 24 hours at ambient temperature and the reaction mixture is then evaporated down. The purification of the residues is carried out by column chromatography on silica gel (eluant: dichloromethane/ethanol (60:1)). Yield: 0.5 g (57.8% of theory); C19H15NO2 (M=289.33); calc.: molecular ion peak (M+H)+: 290; found: molecular ion peak (M+H)+: 290; Rf value: 0.21 (silica gel, dichloromethane/ethanol (50:1)).

reactant | cesium carbonate | 8.03 mmol, 2.62 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-iodobenzyl alcohol | IC1=CC=C(CO)C=C1 | C7H7IO
reactant | propynoic acid-(4-prop-1-ynylphenyl)amide | 3.2 mmol, 0.7 g | C(#CC)C1=CC=C(C=C1)NC(C#C)=O | C12H9NO
catalyst | copper (I) iodide | 0.28 mmol, 53 mg | [Cu]I
product | 3-(4-hydroxymethylphenyl)propynoic acid-(4-prop-1-ynylphenyl)amide | C(#CC)C1=CC=C(C=C1)NC(C#CC1=CC=C(C=C1)CO)=O | C19H15NO2
